*BZX55C30 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*33V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C33 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  32.38
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=29.4P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=554U RS=19.5 N=8.8)
.ENDS